US05965589
According to the same manner as that described in Example 23, (E,E)-5-(4-isopropoxyphenyl)-2,4-pentadienal was condensed with 2,4-thiazolidinedione, and the resulting compound was subjected to catalytic hydrogenation to give 5-[5-(4-isopropoxyphenyl)pentyl]-2,4-thiazolidinedione as an oil (yield: 26%).

reactant | (E,E)-5-(4-isopropoxyphenyl)-2,4-pentadienal | C(C)(C)OC1=CC=C(C=C1)/C=C/C=C/C=O | C14H16O2
reactant | 2,4-thiazolidinedione | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-[5-(4-isopropoxyphenyl)pentyl]-2,4-thiazolidinedione | yield: 26% | C(C)(C)OC1=CC=C(C=C1)CCCCCC1C(NC(S1)=O)=O | C17H23NO3S
